US08536179B2
To a solution of DMSO (300 mL) containing t-BuOK (20 g, 178 mmol) and cyanoacetamide (16.5 g, 196 mmol) was added (3E)-3-hepten-2-one (20 g, 178 mmol), and the contents were stirred at room temperature for 30 min. Additional t-BuOK (60 g, 534 mmol) was added and the reaction mixture was placed under an atmosphere of oxygen for an additional 1 h. The reaction mixture was purged with argon, diluted with 4 volumes of H2O, and then 5 volumes of 4 N HCl, which were added slowly. The reaction mixture was filtered, washed with water, and dried to give 6-methyl-2-oxo-4-propyl-1,2-dihydro-3-pyridinecarbonitrile (10 g, 32%). 1H NMR (400 MHz, DMSO-d6) δ ppm 12.25-12.40 (br s, 1H), 6.18 (s, 1H), 2.53 (t, 2H), 2.22 (s, 3H), 1.57-1.64 (m, 2H), 0.84 (t, 3H).

reactant | t-BuOK | 178 mmol, 20 g | CC(C)(C)[O-].[K+]
reactant | cyanoacetamide | 196 mmol, 16.5 g | C(#N)CC(=O)N | C3H4N2O
reactant | (3E)-3-hepten-2-one | 178 mmol, 20 g | CC(\C=C\CCC)=O | C7H12O
reactant | t-BuOK | 534 mmol, 60 g | CC(C)(C)[O-].[K+]
solvent | DMSO | 300 mL | CS(=O)C | C2H6OS
product | 6-methyl-2-oxo-4-propyl-1,2-dihydro-3-pyridinecarbonitrile | 10 g, 32% | CC1=CC(=C(C(N1)=O)C#N)CCC | C10H12N2O
